US04503073
7-(2-Fluorobenzoyl)-indolin-2-one
A mixture of 60 g (0.2 mole) of 7-(2-fluorobenzoyl)-3-methylthioindolin-2-one and 60 g (0.5 mole) of tin powder in one liter of 95% ethanol was heated to reflux and 150 ml of concentrated hydrochloric acid was added. Heating was continued for 18 hrs, then the mixture was cooled and the precipitate was collected by decanting the slurry from the remaining tin and filtering the slurry. The filter cake was recrystallized twice from absolute ethanol to give 31 g (60%) white needles, m.p. 209°-210° C.

reactant | 7-(2-fluorobenzoyl)-3-methylthioindolin-2-one | 0.2 mole, 60 g | FC1=C(C(=O)C=2C=CC=C3C(C(NC23)=O)SC)C=CC=C1 | C16H12FNO2S
reactant | tin | 0.5 mole, 60 g | [Sn] | Sn
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | ethanol | one liter | C(C)O | C2H6O
product | 7-(2-Fluorobenzoyl)-indolin-2-one | 31 g, 60% | FC1=C(C(=O)C=2C=CC=C3CC(NC23)=O)C=CC=C1 | C15H10FNO2
